US07981903B2
A slurry of 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole (Intermediate B99, 3.2 g, 13.87 mmol) in THF (100 mL) was treated with diisopropylethylamine (4.83 mL, 27.7 mmol), followed by (methyloxy)acetyl chloride (1.903 mL, 20.81 mmol). The resulting yellow slurry was stirred at rt for 3 days, then diluted with CH2Cl2 (300 mL), washed with water (150 mL), a saturated NaCl solution (150 mL), dried (Na2SO4) and concentrated to obtain 5-(methyloxy)-1-[(methyloxy)acetyl]-6-nitro-2,3-dihydro-1H-indole as an orange solid (3.96 g). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.24 (t, J=8.42 Hz 2H), 3.36 (s, 3H), 3.89 (s, 3H), 4.07 (t, J=8.42 Hz 2H), 4.19 (s, 2 H), 7.35 (s, 1H), 8.47 (s, 1H); ESIMS (M+H)+=266.87.

reactant | 5-(methyloxy)-6-nitro-2,3-dihydro-1H-indole | 13.87 mmol, 3.2 g | COC=1C=C2CCNC2=CC1[N+](=O)[O-] | C9H10N2O3
reactant | diisopropylethylamine | 27.7 mmol, 4.83 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (methyloxy)acetyl chloride | 20.81 mmol, 1.903 mL | COCC(=O)Cl | C3H5ClO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | 5-(methyloxy)-1-[(methyloxy)acetyl]-6-nitro-2,3-dihydro-1H-indole | 3.96 g | COC=1C=C2CCN(C2=CC1[N+](=O)[O-])C(COC)=O | C12H14N2O5
